* C:\Users\ffejs\Documents\ELEN-2425\Homework 3\HW3P01.asc
V1 N002 N001 6v
R1 N003 N001 1k
R2 V0p N003 1k
R4 V0n V0p 2k
R3 N004 N001 1k
V2 N003 0 12
E§V0 V0 0 V0p V0n 1
V§I1 N002 V0p 0
V§I3 V0n 0 0
V§I2 N004 0 0
.op
.backanno
.end
