* C:\Users\ffejs\Documents\ELEN-2425\Homework 3\HW3P02.asc
Is 0 N003 12m
R1 N006 0 4k
R2 N002 N001 6k
R3 N004 N001 3k
Vs N008 N004 12
R4 N007 N008 2k
V§I0 N003 N001 0
V§I4 N004 N005 0
V§I2 N002 N004 0
V§I3 N008 0 0
V§I1R4 N005 N007 0
V§I0R1 N001 N006 0
.op
.backanno
.end
