* C:\Users\ffejs\Documents\ELEN-2425\Homework 3\HW3P03.asc
VS N001 N005 6
R1 N002 N004 2k
R2 N003 N007 4k
R3 N007 N006 2k
R4 N009 N007 2k
R5 N005 N008 6k
IS1 N005 N006 .002
IS2 0 N006 .001
V§I1 N002 N001 0
V§I2 N002 N003 0
V§I3 0 N008 0
V§I4 N009 0 0
V§I0 N004 N006 0
.op
.backanno
.end
